US08372864B2
17.1.3: N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide
Added to a solution of 171 mg of 7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid in 2 cm3 of anhydrous dimethylformamide and under an argon atmosphere are 0.198 cm3 of triethylamine and 207 mg of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride, then 71 mg of 1-hydroxy-7-azabenzotriazole and 100.5 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The solution is kept stirring for 15 h at a temperature close to 20° C. 50 cm3 of water and 50 cm3 of ethyl acetate are added to the reaction medium. After decanting, the organic phase is washed with 50 cm3 of a saturated aqueous solution of ammonium chloride, two lots of 20 cm3 of water, then 20 cm3 of a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure (5 kPa). The residual solution (around 3 cm3) is purified by flash chromatography over silica (column: 15 g; spherical silica of BP-SUP type, particle size: 20-40 μm; eluent: 50% heptane/50% ethyl acetate). After concentrating the fractions under reduced pressure, 268 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are obtained in the form of a white powder.

reactant | 7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid | 171 mg | C(#N)C1=C(C=CC=C1)C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)O | C24H26N2O3
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride | 207 mg | Cl.N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F
reactant | 1-hydroxy-7-azabenzotriazole | 71 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 100.5 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 2 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 50 cm3 | O | H2O
solvent | triethylamine | 0.198 cm3 | C(C)N(CC)CC | C6H15N
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-(2-cyanophenyl)-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)C2=C(C=CC=C2)C#N)=O)C(CCC)CCC)C=C(C1)F | C44H45F5N4O3
